US05411963
4-[2-(4-Chlorophenyl)ethoxy]quinazoline
To a solution of 1.1 g of sodium hydride in 50 ml of DMF was added 3.4 g of 2-(4-chlorophenyl)ethanol, and the mixture was stirred at room temperature for one hour. Then 3.6 g of 4-chloroquinazoline in 20 ml of DMF were added, and the mixture was stirred overnight. The mixture was then poured into a mixture of ice in water. Solid was collected and recrystallized from pentane giving 0.149 g of the title product. Yield: 2.4%. M.P. 57°-58° C.

reactant | sodium hydride | 1.1 g | [H-].[Na+]
reactant | 2-(4-chlorophenyl)ethanol | 3.4 g | ClC1=CC=C(C=C1)CCO | C8H9ClO
reactant | 4-chloroquinazoline | 3.6 g | ClC1=NC=NC2=CC=CC=C12 | C8H5ClN2
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-[2-(4-Chlorophenyl)ethoxy]quinazoline | Yield: 2.4% | ClC1=CC=C(C=C1)CCOC1=NC=NC2=CC=CC=C12 | C16H13ClN2O
